US06521622B1
Coupling Procedure C: Preparation of N-(4-Cyclohexylphenyl)-3-Hydroxypyridine-2-Carboxamide
To a stirred solution of 3-hydroxypyridine-2-carboxylic acid (obtained from 16 by catalytic hydrogenation in the presence of Pd/C as described earlier) (0.42 g, 3 mmol) and 4-cyclohexylaniline (0.35 g, 2 mmol) in dry DMF (5 mL) were successively added 1-hydroxybenzotriazole (0.48 g), EDCI (0.65 g) and N-methylmorpholine (1.41 g). An additional amount of DMF (5 mL) was added and the reaction mixture stirred at room temperature overnight. The mixture was poured into water (200 mL), then extracted with EtOAc (2×75 mL). The organic extracts were combined, washed with water (100 mL), and saturated NaCl solution (50 mL), dried (MgSO4) and concentrated. The crude oil which solidified upon standing was chromatographed on silica gel (4:1 petroleum ether-EtOAc) to give the title compound (0.42 g) as a tan solid, m.p. 91-93° C.

reactant | 4-cyclohexylaniline | 2 mmol, 0.35 g | C1(CCCCC1)C1=CC=C(N)C=C1 | C12H17N
reactant | 1-hydroxybenzotriazole | 0.48 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDCI | 0.65 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | N-methylmorpholine | 1.41 g | CN1CCOCC1 | C5H11NO
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 200 mL | O | H2O
product | N-(4-Cyclohexylphenyl)-3-Hydroxypyridine-2-Carboxamide | 0.42 g | C1(CCCCC1)C1=CC=C(C=C1)NC(=O)C1=NC=CC=C1O | C18H20N2O2
